US08859774B2
(R)-(6-((6-chloropyridin-3-yl)sulfonyl)-1-(4-fluorophenyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(pyridin-2-yl)methanone (30 mg, 0.055 mmol) was dissolved in a solution of dimethylamine in tetrahydrofuran (2M, 545 μl, 1.091 mmol), and the reaction mixture stirred at room temperature overnight. The solvent was removed in vacuo to give a yellow oil, which was purified by chromatography on silica gel (gradient: 10-100% ethyl acetate in isohexane) to afford (R)-(6-((6-(dimethylamino)pyridin-3-yl)sulfonyl)-1-(4-fluorophenyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(pyridin-2-yl)methanone (25 mg) as a pale yellow solid. LCMS (Method F, ES-API): RT 2.38 min, m+H=559.3; 1H NMR (400 MHz, CDCl3): δ 8.62 (1H, ddd, J=4.8, 1.8, 0.9 Hz), 8.43 (1H, d, J=2.5 Hz), 7.88 (1H, dt, J=8.0, 1.1 Hz), 7.81 (1H, td, J=7.7, 1.8 Hz), 7.60 (1H, dd, J=9.1, 2.5 Hz), 7.46-7.40 (3H, m), 7.28 (1H, s), 7.20-7.12 (2H, m), 6.47 (1H, d, J=2.2 Hz), 6.39 (1H, dd, J=9.1, 0.8 Hz), 5.47 (1H, dd, J=12.0, 2.2 Hz), 4.29 (1H, d, J=16.9 Hz), 3.84-3.79 (1H, m), 3.14 (6H, s), 2.92-2.75 (2H, m), 2.70 (1H, d, J=12.0 Hz), 2.51-2.44 (2H, m).

reactant | (R)-(6-((6-chloropyridin-3-yl)sulfonyl)-1-(4-fluorophenyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(pyridin-2-yl)methanone | 0.055 mmol, 30 mg | ClC1=CC=C(C=N1)S(=O)(=O)N1C[C@]2(CC3=C(C=C2CC1)N(N=C3)C3=CC=C(C=C3)F)C(=O)C3=NC=CC=C3 | C27H21ClFN5O3S
reactant | tetrahydrofuran | 1.091 mmol, 2M, 545 μl | O1CCCC1 | C4H8O
reactant | dimethylamine | CNC | C2H7N
product | (R)-(6-((6-(dimethylamino)pyridin-3-yl)sulfonyl)-1-(4-fluorophenyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(pyridin-2-yl)methanone | 25 mg | CN(C1=CC=C(C=N1)S(=O)(=O)N1C[C@]2(CC3=C(C=C2CC1)N(N=C3)C3=CC=C(C=C3)F)C(=O)C3=NC=CC=C3)C | C29H27FN6O3S
